US06288100B1
4-[6-(Hydroxy-(phenyl)-methyl)-2- propyl -benzoimidazol-1-ylmethyl]-benzoic acid ethyl ester
To a solution of 4-(6-benzoyl-2-propyl-benzoimidazol-1-ylmethyl)-benzoic acid ethyl ester (1.5 g; 3.5 mmol) in ethanol (50 mL) was added sodium borohydride (1.0 g; 29.4 mmol). After stirring at ambient temperature for 4 hours, acetone (20 mL) was added. The solvent was evaporated. The residue was dissolved in ethyl acetate and washed with water. The organic phase was evaporated to give the title compound (0.9 g, 60% yield) as a white solid which was used without further purification in step 2.

reactant | 4-(6-benzoyl-2-propyl-benzoimidazol-1-ylmethyl)-benzoic acid ethyl ester | 3.5 mmol, 1.5 g | C(C)OC(C1=CC=C(C=C1)CN1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=O)CCC)=O | C27H26N2O3
reactant | sodium borohydride | 29.4 mmol, 1.0 g | [BH4-].[Na+]
reactant | acetone | 20 mL | CC(=O)C | C3H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-[6-(Hydroxy-(phenyl)-methyl)-2- propyl -benzoimidazol-1-ylmethyl]-benzoic acid ethyl ester | 0.9 g, 60% yield | C(C)OC(C1=CC=C(C=C1)CN1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)O)CCC)=O | C27H28N2O3
